US07776922B2
2-Iodo-5-[(2-(3-fluorophenyl)butanoyl)amino]benzamide is prepared from 5-amino-2-iodobenzamide and 2-(3-fluorophenyl)butanoic acid under standard amide coupling conditions with HATU.

reactant | 5-amino-2-iodobenzamide | NC=1C=CC(=C(C(=O)N)C1)I | C7H7IN2O
reactant | 2-(3-fluorophenyl)butanoic acid | FC=1C=C(C=CC1)C(C(=O)O)CC | C10H11FO2
reactant | HATU | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
product | 2-Iodo-5-[(2-(3-fluorophenyl)butanoyl)amino]benzamide | IC1=C(C(=O)N)C=C(C=C1)NC(C(CC)C1=CC(=CC=C1)F)=O | C17H16FIN2O2
